US09120749B2
{6-Bromo-4-[trans-4-(pyrrolidin-1-yl)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (220 mg, 0.708 mmol) was reacted with trans-4-(pyrrolidin-1-yl)cyclohexanamine hydrochloride (350 mg, 2.08 mmol) to afford the desired product (75 mg, 24%) as an off-white solid: ESI MS m/z 442 [C23H28BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.708 mmol, 220 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | trans-4-(pyrrolidin-1-yl)cyclohexanamine hydrochloride | 2.08 mmol, 350 mg | Cl.N1(CCCC1)[C@@H]1CC[C@H](CC1)N
product | {6-Bromo-4-[trans-4-(pyrrolidin-1-yl)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 75 mg, 24% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N1CCCC1 | C23H28BrN3O
